US08664246B2
tert-Butyl (6-chloropyridin-2-yl)carbamate
23.4 g (181.8 mmol) of 2-chloro-5-aminopyridine were admixed with 150 ml of THF under argon and cooled to 0° C. 73.3 g (400 mmol) of sodium bis(trimethylsilyl)amide and 43.65 g (200 mmol) of di-tert-butyl dicarbonate, dissolved in 150 ml of THF, were added dropwise. After 15 min, the cooling bath was removed and the mixture was stirred at RT for a further 15 min. The THF was removed by rotary evaporation, and the residue was admixed and extracted with ethyl acetate and 0.5 N hydrochloric acid. The organic phase was removed, dried over magnesium sulphate and concentrated on a rotary evaporator. The reaction mixture was chromatographed on silica gel (eluent: dichloromethane/methanol 100%→100:3). 36.54 g (88% of theory) of the product were obtained in solid form.

reactant | 2-chloro-5-aminopyridine | 181.8 mmol, 23.4 g | ClC1=NC=C(C=C1)N | C5H5ClN2
reactant | sodium bis(trimethylsilyl)amide | 400 mmol, 73.3 g | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | di-tert-butyl dicarbonate | 200 mmol, 43.65 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | tert-Butyl (6-chloropyridin-2-yl)carbamate | ClC1=CC=CC(=N1)NC(OC(C)(C)C)=O | C10H13ClN2O2
